US09290496B2
Step 1: Preparation of 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine
A suspension of 6-chloro-2-fluoro-9H-purine (88% potency, 5.90 kg, 30.20 mol, 1.00 eq), 3-methoxy-1-methyl-1H-pyrazol-4-amine hydrochloride (98% potency, 5.55 kg, 33.22 mol, 1.10 eq), and sodium bicarbonate (10.1 kg, 120.81 mol, 4.00 eq) in EtOAc (106 L) was stirred at 50° C. for 12 hr. The reaction mixture was then cooled to 20° C., granulated for 1 hr, filtered, and the solids were washed with EtOAc (18 L) and dried on the filter. The crude product was charged back into the reactor and suspended in water (106 L) and stirred at 35° C. for 2 hr. The resulting slurry was cooled to 20° C. and the desired product was isolated by filtration and the cake was washed with water (30 L) and then with EtOAc (30 L) and dried for 16 hr at 50° C. to give the title compound (6.26 kg, 23.8 mol, 79% yield) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.03 (br. s., 1 H) 9.21 (br. s., 1 H) 8.18 (br. s., 1 H) 7.74 (br. s., 1 H) 3.81 (br. s., 3 H) 3.71 (s, 3 H). m/z (APCI+) for C10H11FN7O 264.2 (M+H)+.

reactant | 6-chloro-2-fluoro-9H-purine | 30.20 mol, 5.90 kg, 1.00 eq | ClC1=C2N=CNC2=NC(=N1)F | C5H2ClFN4
reactant | 3-methoxy-1-methyl-1H-pyrazol-4-amine hydrochloride | 33.22 mol, 5.55 kg, 1.10 eq | Cl.COC1=NN(C=C1N)C
reactant | sodium bicarbonate | 120.81 mol, 10.1 kg, 4.00 eq | C([O-])(O)=O.[Na+]
solvent | EtOAc | 106 L | CCOC(=O)C | C4H8O2
product | 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine | FC1=NC(=C2N=CNC2=N1)NC=1C(=NN(C1)C)OC | C10H10FN7O
